US07268142B2
6,7-Dimethoxy-3′,4′-dihydro-1′H-[1,2′]biisoquinolinyl.
Palladium acetate (25 mg 0.112 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (209 mg, 0.335 mmol) were heated to 80° C. in toluene (25 mL) for 20 min. To the mixture was added 500 mg (2.24 mmol) of 1-chloro-6,7-dimethoxy-isoquinoline, 298 mg (2.24 mmol) of tetrahydroisoquinoline, and 4.47 mL (4.47 mmol) of a 1.0 M solution of potassium tert-butoxide in THF. After stirring at reflux for 4 h, the mixture was diluted with EtOAc, washed with water, dried over MgSO4 and concentrated. Silica gel chromatography (4:1 hexanes/EtOAc) provided 625 mg (87%) of the title compound as a yellow oil. The hydrochloride salt (387 mg) was obtained after treatment with concd. HCl in isopropanol and recrystallization from EtOH/MeOH.

reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.335 mmol, 209 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | 1-chloro-6,7-dimethoxy-isoquinoline | 2.24 mmol, 500 mg | ClC1=NC=CC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | tetrahydroisoquinoline | 2.24 mmol, 298 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Palladium acetate | 0.112 mmol, 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6,7-Dimethoxy-3′,4′-dihydro-1′H-[1,2′]biisoquinolinyl | 625 mg, 87% | COC=1C=C2C=CN=C(C2=CC1OC)N1CC2=CC=CC=C2CC1 | C20H20N2O2
